US05693811
Sodium azide (19.5 g, 0.3 moles), 2-methyl-[(2-chloro-3-nitroquinoline-4-yl)amino]-2-propanol (29.6 g, 0.10 mole, U.S. Pat. No. 4,988,815 Example 12) and N,N-dimethylformamide (100 mL) were added to a jacketed 1 liter round bottom flask with the outside portion containing acetone. The reaction mixture was stirred with a stirring bar and the acetone refluxed to provide a constant internal reaction temperature of 53° C. After 18 hours the reaction mixture was diluted with water (100 mL). The resulting yellow precipitate was isolated by filtration then washed with 50% N,N-dimethylformamide/water until the washes became light colored. The yellow/green solid was then washed with water, pressed dry and washed with ether. The solid was air dried to provide 27.2 g of crude product as a yellow/light green solid. This material was recrystallized form ethanol/dichloromethane to provide 2-methyl-[(4-nitro-5-tetrazolo[1,5-a]quinolinyl)amino]-2-propanol as a yellow crystalline solid, m.p. 204° C. (dec.). Analysis: Calculated for: C13H14N6O3 : % C, 51.65; % H, 4.67; % N, 27.8; Found: % C, 51.30; % H, 4.69; % N, 27.43.

reactant | Sodium azide | 0.3 moles, 19.5 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-methyl-[(2-chloro-3-nitroquinoline-4-yl)amino]-2-propanol | CC(CNC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-])(C)O | C13H14ClN3O3
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | 2-methyl-[(4-nitro-5-tetrazolo[1,5-a]quinolinyl)amino]-2-propanol | CC(CNC1=C(C=2N(C3=CC=CC=C13)N=NN2)[N+](=O)[O-])(C)O | C13H14N6O3
